US07807671B2
7-bromo-4-fluoro-1H-pyrrolo[2,3-c]pyridine (2.0 g, 9.3 mmol) was added to a mixture of AlCl3 (7.5 g, 55.8 mmol) and ethylmethylimidazolium chloride (2.7 g, 18.6 mmol). Methyl chlorooxoacetate (2.1 mL, 18.6 mmol) was added slowly to the above solution and the mixture was stirred at room temperature for 3 h. Reaction flask was placed in an ice bath and water was slowly added until a white precipitate formed. The solid was collected by filtration and washed with water to afford 2-(7-bromo-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid (2.4g, 92%). LCMS: m/e 287 (M+H)+, ret time 0.91 min (method 1).

reactant | 7-bromo-4-fluoro-1H-pyrrolo[2,3-c]pyridine | 9.3 mmol, 2.0 g | BrC=1N=CC(=C2C1NC=C2)F | C7H4BrFN2
reactant | AlCl3 | 55.8 mmol, 7.5 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | ethylmethylimidazolium chloride | 18.6 mmol, 2.7 g | [Cl-].C(C)C1=[N+](C=CN1)C
reactant | Methyl chlorooxoacetate | 18.6 mmol, 2.1 mL | ClC(C(=O)OC)=O | C3H3ClO3
solvent | water | O | H2O
product | 2-(7-bromo-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid | 2.4g, 92% | BrC=1N=CC(=C2C1NC=C2C(C(=O)O)=O)F | C9H4BrFN2O3
